US03934014
Diphenyl-4,5,6-trichloropyrimid-2-yl-imidazol-1-yl-methane
34.0 g (0.1 mol) of diphenyl-4,5,6-trichloropyrimid-2-yl-chloromethane in 250 ml of absolute acetonitrile are stirred with 13.6 g (0.2 mol) of imidazole for 3 hours at room temperature and thereafter heated to the boil for 15 minutes. The mixture is then concentrated and the dark brown residue is washed with water and taken up in methylene chloride. After drying with sodium sulphate, treating with active charcoal and filtering, the solution is concentrated. The residue is extracted by boiling with petroleum ether, and the mixture is filtered and again concentrated. Finally, the material is recrystallised from a little acetonitrile. 17.0 g (40% of theory) of the compound of formula ##SPC9##

reactant | diphenyl-4,5,6-trichloropyrimid-2-yl-chloromethane | 0.1 mol, 34.0 g | C1(=CC=CC=C1)C(Cl)(C1=NC(=C(C(=N1)Cl)Cl)Cl)C1=CC=CC=C1 | C17H10Cl4N2
reactant | imidazole | 0.2 mol, 13.6 g | N1C=NC=C1 | C3H4N2
solvent | acetonitrile | 250 ml | C(C)#N | C2H3N
product | Diphenyl-4,5,6-trichloropyrimid-2-yl-imidazol-1-yl-methane | C1(=CC=CC=C1)C(N1C=NC=C1)(C1=NC(=C(C(=N1)Cl)Cl)Cl)C1=CC=CC=C1 | C20H13Cl3N4
